US07651687B2
1-Benzyl-5-bromo-2-phenyl-1H-benzimidazole
p-TsOH-H2O (311.7 mg, 1.606 mmol) was added to a DCM (50 ml) solution of N1-benzyl-4-bromobenzene-1,2-diamine (4451 mg, 16.06 mmol) and trimethyl orthobenzoate (3096 μl, 17.66 mmol) and the resulting mixture was stirred at rt under an atmosphere of Nitrogen for 40 h. The reaction mixture was then concentrated in vacuo to give a yellow solid which was triturated with 40% MeOH/water (375 mL), filtered, washed with saturated NaHCO3 (20 ml)+H2O (80 ml) twice and 40% MeOH/H2O (2×50 ml), and dried to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm =5.44 (s, 2 H), 7.05-7.08 (m, 3 H), 7.30-7.36 (m, 4 H), 7.44-7.50 (m, 3 H), 7.66-7.68 (m, 2 H) and 7.99 (dd, 1 H, J=0.4 & 1.6 Hz). MS(ES+): m/z 363.20 and 365.26[MH+].

reactant | N1-benzyl-4-bromobenzene-1,2-diamine | 16.06 mmol, 4451 mg | C(C1=CC=CC=C1)NC=1C(=CC(=CC1)Br)N | C13H13BrN2
reactant | trimethyl orthobenzoate | 17.66 mmol, 3096 μl | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-5-bromo-2-phenyl-1H-benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)Br)C2=CC=CC=C2 | C20H15BrN2
